US08580785B2
d) Preparation of 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-3H-benzoimidazole-5-carboxylic acid methylamide (T21.1.2)
See example H3 using 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-1H-7-oxa-1,3,5-triaza-cyclopenta[b]naphthalen-8-one as starting material and 3 equivalents of methylamine (40% in H2O). A white solid is obtained within 26% yield. m.p.: 190-192° C.; LC/MS: 498/500 (M+1)+.

reactant | 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-1H-7-oxa-1,3,5-triaza-cyclopenta[b]naphthalen-8-one | ClC1=C2C(=CC=3C(OC(=NC13)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)NC=N2 | C18H7Cl2F3N6O2
reactant | methylamine | 3 equivalents | CN | CH5N
product | 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-3H-benzoimidazole-5-carboxylic acid methylamide | 26% yield | CNC(=O)C1=CC2=C(N=CN2)C(=C1NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)Cl | C19H12Cl2F3N7O2
